US06689754B1
A suspension of 2-aminopyridine-6-carboxylic acid (2 g) in EtOH (10.0 mL) and 4N HCl/dioxane (10.0 mL) was heated to reflux for 16 hours under anhydrous conditions. The reaction mixture was then concentrated to dryness and the residue was dried in a desiccator under vacuum to afford 2-amino-6-carbethoxypyridine hydrochloride as a white powder (1.6 g). 1H-NMR (DMSO-d6) δ 8.3 (br), 7.94 (m, 1H), 7.37 (d, 1H, J=7.2 Hz), 7.22 (dd, 1H, J=8.7 Hz), 4.37 (q, 2H, J=7.2 Hz), 1.32 (t, 3H, J=7.2 Hz); FAB MS m/z 167 (M+H).

reactant | 2-aminopyridine-6-carboxylic acid | 2 g | NC1=NC(=CC=C1)C(=O)O | C6H6N2O2
reactant | HCl dioxane | 4N, 10.0 mL | Cl.O1CCOCC1
solvent | EtOH | 10.0 mL | CCO | C2H6O
product | 2-amino-6-carbethoxypyridine hydrochloride | 1.6 g | Cl.NC1=NC(=CC=C1)C(=O)OCC | InChI=1S/C8H10N2O2.ClH/c1-2-12-8(11)6-4-3-5-7(9)10-6;/h3-5H,2H2,1H3,(H2,9,10);1H
